US05256675
A solution of 2-acetylamino-4-[4-aminophenylsulfonylmethyl)thiazole (4.8 g) in a mixture of acetic acid (35 ml) and 6N-aqueous hydrochloric acid (10 ml) was refluxed for 2.5 hours with stirring. The reaction mixture was poured into ice-water and then the solution was adjusted to pH 8.0 using 10% aqueous sodium bicarbonate with stirring. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-amino-4-(4-aminophenylsulfonylmethyl)thiazole (2.50 g, yield: 60.2%). mp: 203°-206° C. (dec.) IR (Nujol): 3450, 3350, 1630, 1595, 1530 1380 cm-1

reactant | 2-acetylamino-4-[4-aminophenylsulfonylmethyl)thiazole | 4.8 g | C(C)(=O)NC=1SC=C(N1)CS(=O)(=O)C1=CC=C(C=C1)N | C12H13N3O3S2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 2-amino-4-(4-aminophenylsulfonylmethyl)thiazole | 2.50 g, yield: 60.2% | NC=1SC=C(N1)CS(=O)(=O)C1=CC=C(C=C1)N | C10H11N3O2S2
